1_OPAMP (TINA Netlist Editor format)
**************************************
**  This file was created by TINA   **
**         www.tina.com             ** 
**      (c) DesignSoft, Inc.        **          
**     www.designsoftware.com       **
**************************************
.LIB "<TINADIR>\EXAMPLES\SPICE\TSPICE.LIB"
.LIB "<TINADIR>\SPICELIB\Operational Amplifiers.LIB"
.TEMP 27
.AC DEC 20 10 1MEG
.TRAN 2N 1U
.DC LIN VG1 0 1 10M

.PROBE V([VF1])

VG1         2 0 DC 0 AC 1 0
+ PULSE ( 0 1 0  0  0  1e19 1e20 )
R4          1 2 1K 
R3          VF1 0 1K 
R2          4 0 1K 
C1          1 VF1 1U 
R1          1 VF1 1K 
XIOP1        4 1 VF1 IdOpamp


.END
